US08138175B2
B) (rac)-2,5-Dibromo-N,N-dimethyl-pentanamide
To a solution of dimethylamine (0.91 ml, 7.18 mmol; 40% solution in water) and 2.75 ml (19.76 mmol) of Et3N in 6 ml of CH2Cl2 cooled at 0° C. was added dropwise a solution of 2,5-dibromo-pentanoyl chloride (1.00 g, 3.59 mmol) in 4 ml CH2Cl2. After stirring 1 h at RT, the reaction mixture was partitioned between CH2Cl2 and water. The organic phases were washed with water and brine and the aqueous layers extracted twice with CH2Cl2. The organic phases were dried over MgSO4, evaporated and purified by flash silica gel column (EtOAc/n-heptane 1:1) to afford 0.66 g (64%) of the title product as light yellow oil. MS: 288.1 (2Br, MH+).

reactant | dimethylamine | 7.18 mmol, 0.91 ml | CNC | C2H7N
reactant | Et3N | 19.76 mmol, 2.75 ml | CCN(CC)CC | C6H15N
reactant | 2,5-dibromo-pentanoyl chloride | 3.59 mmol, 1.00 g | BrC(C(=O)Cl)CCCBr | C5H7Br2ClO
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
product | (rac)-2,5-Dibromo-N,N-dimethyl-pentanamide | 0.66 g, 64% | BrC(C(=O)N(C)C)CCCBr | C7H13Br2NO
